US06426345B1
A mixture of 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (339 mg), diphenylphosphoryl azide (0.21 ml) and triethylamine (0.14 ml) in benzene (5 ml) was stirred under reflux for 30 minutes. Then 4-aminomorpholine (0.11 ml) was added to the mixture and reflux was continued additional 3 hours. The mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (3% methanol in chloroform) to give 2-benzyl-4-[3-(3-morpholinoureido)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (138 mg).

reactant | 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 339 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)O)N=CC=C2 | C21H15N3O3
reactant | diphenylphosphoryl azide | 0.21 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 4-aminomorpholine | 0.11 ml | NN1CCOCC1 | C4H10N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
product | 2-benzyl-4-[3-(3-morpholinoureido)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 138 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NN1CCOCC1)N=CC=C2 | C25H24N6O3
